US05998412
Benzyl iodide (280 mg, 1.28 mmol) and anhydrous potassium carbonate (440 mg, 3.2 mmol) were added to a solution of methyl 2-(R)-([benzyl-(methylaminosulfonyl)amino]-3-methylbutyrate (200 mg, 0.64 mmol), [prepared as described in Step 1 above] in DMF (3 ml) at RT. After 96 h, 1 M HCl was added and the product was extracted into ethyl acetate. The organic layer was washed with dilute sodium thiosulfate and brine and dried over MgSO4. The organics were removed in vacuo and the residue was chromatographed (PTLC, SiO2, 20% ethyl acetate/hexane) to give methyl 2-(R)-[benzyl-(benzylmethylaminosulfonyl)amino]-3-methylbutyrate as a colorless oil (60%).

reactant | Benzyl iodide | 1.28 mmol, 280 mg | C(C1=CC=CC=C1)I | C7H7I
reactant | potassium carbonate | 3.2 mmol, 440 mg | C([O-])([O-])=O.[K+].[K+]
reactant | [benzyl-(methylaminosulfonyl)amino]-3-methylbutyrate | 0.64 mmol, 200 mg | C(C1=CC=CC=C1)N(S(=O)(=O)NC)C(C(=O)[O-])C(C)C
reactant | HCl | 1 M | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | methyl 2-(R)-[benzyl-(benzylmethylaminosulfonyl)amino]-3-methylbutyrate | 60% | C(C1=CC=CC=C1)N([C@@H](C(=O)OC)C(C)C)S(=O)(=O)NCCC1=CC=CC=C1 | C21H28N2O4S
